US07807709B2
D. (3R,4R)-3-Cyclopropylaminomethyl-4-({isopropyl-[1-(3-methoxy-propyl)-3-methyl-1H-indole-6-carbonyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (3S,4R)-3-formyl-4-({isopropyl-[1-(3-methoxy-propyl)-3-methyl-1H-indole-6-carbonyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (6 g, 10.9 mmol) in dichloroethane (100 mL), cyclopropylamine (0.85 mL, 12 mmol) and NaBH(OAc)3 (4.32 g, 15.3 mmol) are added. The solution is stirred at RT overnight, then diluted with CH2Cl2. A saturated solution of NaHCO3 is added, the layers are separated and the aqueous one extracted twice with CH2Cl2. The combined organic extracts are dried over Na2SO4, filtered, and concentrated in vacuo. The crude material is purified by flash chromatography on silica gel (eluent: AcOEt/MeOH 100:0 to 85:15) to give the title compound. TLC, Rf (AcOEt)=0.1. MS (LC-MS): 541.3 [M+H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 ml/min): 5.52 min.

reactant | (3S,4R)-3-formyl-4-({isopropyl-[1-(3-methoxy-propyl)-3-methyl-1H-indole-6-carbonyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 10.9 mmol, 6 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(=O)C1=CC=C2C(=CN(C2=C1)CCCOC)C)C(C)C)C=O | C28H41N3O5
reactant | cyclopropylamine | 12 mmol, 0.85 mL | C1(CC1)N | C3H7N
reactant | NaBH(OAc)3 | 15.3 mmol, 4.32 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3R,4R)-3-Cyclopropylaminomethyl-4-({isopropyl-[1-(3-methoxy-propyl)-3-methyl-1H-indole-6-carbonyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(=O)C1=CC=C2C(=CN(C2=C1)CCCOC)C)C(C)C)CNC1CC1 | C31H48N4O4
